US05459152
Preparation of 3-[Pyridin-3-yl)-7-(1-carbophenoxy-6-phenylmethoxyindol-3-ylcarbonyl)-1H,3H-pyrrolo[1,2-c]thiazole
The desired compound was prepared according to the method of Example 2, except substituting 3-(pyridin-3-yl)-7-(6-phenylmethoxyindol-3-)carbonyl-1H,3H-pyrrolo[1,2-c]thiazole, prepared as in Example 4 for 3-(pyridin-3-yl)-7-(indol-3-yl)carbonyl-1H,3H-pyrrolo[1,2-c]thiazole and substituting phenyl chloroformate for N,N-dimethylcarbamoyl chloride. 1H NMR (DMSO-d6, 300 MHz) δ4.45 (d, 1H, J=15 Hz), 4.62 (dd, 1H, J=15 Hz, 2 Hz), 5.16 (s, 2H), 6.69 (d, 1H, J=3 Hz), 6.76 (s, 1H), 6.85 (d, 1H, J=3 Hz), 7.12 (dd, 1H, J=9 Hz, 3 Hz), 7.26-7.52 (m, 11H), 7.60-7.68 (m, 1H), 7.77 (d, 1H, J=3 Hz), 8.08 (d, 1H, J=9 Hz), 8.30 (s, 1H), 8.51-8.54 (m, 2H), MS (DCI/NH3) m/e 572 (M+H)+.

reactant | 3-(pyridin-3-yl)-7-(indol-3-yl)carbonyl-1H,3H-pyrrolo[1,2-c]thiazole | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CNC1=CC=CC=C21 | C20H15N3OS
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | N,N-dimethylcarbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | NH3 | N | H3N
product | 3-[Pyridin-3-yl)-7-(1-carbophenoxy-6-phenylmethoxyindol-3-ylcarbonyl)-1H,3H-pyrrolo[1,2-c]thiazole | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CN(C1=CC(=CC=C21)OCC2=CC=CC=C2)C(=O)OC2=CC=CC=C2 | C34H25N3O4S
